US06413938B1
Synthesis of 2-bromo-6-trifluoromethyl-1-(5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole
Starting with 2-bromo-6-trifluoromethyl-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole, this compound was prepared according to general procedure III. Following two flash column chromatographic purifications on silica gel with EtOAc/hexane (3:2), a 14% yield of the title compound was obtained as a foam. 1H NMR (DMSO-d6) δ1.4 (d, 3H, Me), 3.8-3.9 (m, 1H, CH), 3.9-4.1 (m, 2H, 2×CH), 4.45 (q, 1H, CH), 5.3 (d, 1H, OH), 5.5 (d, 1H, OH), 5.91 (d,1H, CH), 7.6 (d, 1H, aromatic), 7.82 (d, 1H, aromatic), 7.9 (s, H, aromatic).

reactant | 2-bromo-6-trifluoromethyl-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C)C=C(C=C2)C(F)(F)F | C17H16BrF3N2O5
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 2-bromo-6-trifluoromethyl-1-(5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 14% yield | BrC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O1)C)C=C(C=C2)C(F)(F)F | C13H12BrF3N2O3
